US06008185
According to Russian Inventor's Certificate 1 133 274, 12-oxo-15-pentadecanolide is reduced in the presence of Raney nickel to give 12-hydroxy-15-pentadecanolide, which is then dehydrated, for example in the presence of phosphoric acid, to give the corresponding 15-pentadec-11- and -12-enolides, and these products are then hydrogenated in the presence of a nickel catalyst to give I.

reactant | 12-oxo-15-pentadecanolide | O=C1CCCCCCCCCCC(=O)OCCC1 | C15H26O3
catalyst | Raney nickel | [Ni] | Ni
product | 12-hydroxy-15-pentadecanolide | OC1CCCCCCCCCCC(=O)OCCC1 | C15H28O3
